L0 (VOUT1 VOUT2) inductor
C1 (VOUT2 VCONT1) capacitor
C0 (VOUT1 VCONT1) capacitor
M0 (VOUT1 VOUT2 net17 VSS) nmos4
R0 (net17 VSS) resistor
M1 (VDD VOUT1 VOUT2 VDD) pmos4