Q5 (net10 net3 net18 0) npn
Q4 (net5 net13 net17 0) npn
Q3 (VDD net10 net13 0) npn
Q2 (VDD net5 net3 0) npn
Q1 (VDD net8 net10 0) npn
Q0 (VDD net7 net5 0) npn
L0 (net7 net8) inductor
C0 (net8 net7) capacitor
R3 (net13 VSS) resistor
R2 (net18 VSS) resistor
R1 (net17 VSS) resistor
R0 (net3 VSS) resistor