L3 (VOUT2 net19) inductor
L2 (VOUT1 net13) inductor
L1 (IB1 VOUT2) inductor
L0 (IB1 VOUT1) inductor
M1 (VOUT2 VOUT1 VSS VSS) nmos4
M0 (VOUT1 VOUT2 VSS VSS) nmos4
M3 (VCONT1 net19 VCONT1 VCONT1) pmos4
M2 (VCONT1 net13 VCONT1 VCONT1) pmos4