L7 (net12 net10) inductor
L6 (net10 net7) inductor
L5 (net13 net12) inductor
L4 (net8 net7) inductor
L3 (net11 VB1) inductor
L2 (VB1 net9) inductor
L1 (VDD VOUT2) inductor
L0 (VDD VOUT1) inductor
Q1 (VOUT2 net11 net13 0) npn
Q0 (VOUT1 net9 net8 0) npn
R0 (net10 VSS) resistor
C3 (VCONT1 net12) capacitor
C2 (VCONT1 net7) capacitor
C1 (net11 net13) capacitor
C0 (net9 net8) capacitor