Q1 (VOUT2 net23 net24 0) npn
Q0 (VOUT1 net17 net16 0) npn
L1 (VDD VOUT2) inductor
L3 (net23 VB1) inductor
L7 (net24 net20) inductor
L2 (VB1 net17) inductor
L6 (net20 net16) inductor
L0 (VDD VOUT1) inductor
C3 (net22 net24) capacitor
C2 (net18 net16) capacitor
C1 (net23 net24) capacitor
C0 (net17 net16) capacitor
R2 (net22 VSS) resistor
R1 (net18 VSS) resistor
R0 (net20 VSS) resistor
M1 (VCONT1 net22 VCONT1 VSS) nmos4
M0 (VCONT1 net18 VCONT1 VSS) nmos4