M3 (net21 net8 net12 VDD) pmos4
M2 (net8 net21 net12 VDD) pmos4
M1 (net9 net9 VDD VDD) pmos4
M0 (net12 net9 VDD VDD) pmos4
R0 (net9 VSS) resistor
M5 (net21 net8 VSS VSS) nmos4
M4 (net8 net21 VSS VSS) nmos4
C1 (net21 net24) capacitor
C0 (net8 net25) capacitor
L1 (net8 net21) inductor
L0 (net25 net24) inductor
D1 (net21 VCONT1) diode
D0 (net8 VCONT1) diode