M5 (VOUT2 net21 VDD VDD) pmos4
M5 (VOUT1 net18 VDD VDD) pmos4
M5 (net18 net18 VDD VDD) pmos4
M5 (net21 net21 VDD VDD) pmos4
M5 (net21 VIN2 IB1 VSS) nmos4
M5 (net18 VIN1 IB1 VSS) nmos4
C1 (VOUT1 VSS) capacitor
C0 (VOUT2 VSS) capacitor
R1 (VOUT2 VSS) resistor
R0 (VOUT1 VSS) resistor